Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
Liver biopsy

 
History of Present Illness:
___ is a ___ year old woman with metastatic rectal
cancer, followed at outside hospital, who is admitted from the 
ED
with back pain and presacral mass on MRI.

Patient has a history of apparently localized rectal cancer
treated with chemoradiation in ___. Three weeks ago she
developed chest pain and was diagnosed with PE at ___. CT scan there incidentally showed new liver masses and
she subsequently underwent biopsy which showed (per patient)
recurrent adenocarcinoma. 

Patient has also had months of left lower back pain. However,
over the past three weeks she has had acute worsening of her
pain. It is up to ___ and located in her left low back, 
buttock
and LLQ. It radiates into her left leg and is worse with 
sitting,
and better with walking. No trauma or precipitating event. No
significant improvement with 2mg dilaudid as needed. Due to her
symptoms she presented to ___.

In the ___, MRI showed 5.1 x 3.4 x 3.4 cm left presacral
mass at S1 and S2 with contiguous bony involvement in the S1
vertebral body. She was transferred to ___ ED for further
management. 

In the ED, initial VS were pain 6, T 97.5, HR 80, BP 126/87, RR
19, O2 100%RA. WBC 2.9, HCT 32.4, PLT 159, Na 139, K 3.9, HCO3
21, Cr 1.0, ALT 61, AST 60, ALP 101, TBili 0.2, Alb 3.9,
Trop<0.01 x1, INR 2.4. CXR showed no acute process and POC in
appropriate position. She was noted to have ___ left leg 
strength
and preserved rectal tone. Ortho ___ was consulted who 
deferred
to neuro-onc/rad-onc. Patient was given 0.5mg IV dialudid and 
5mg
po oxycodone. VS prior to transfer were pain 5, T 98.8, HR 79, 
BP
107/73, RR 16 O2 97%RA. 

On arrival to the floor, patient reports ___ pain as above. She
denies any fevers or chills. No fecal incontinence, urinary
retention, or frank weakness in her left leg. She does note some
streaks of blood on toilet paper after urinating. She is unsure
if this is hematuria or other discharge. No other dysuria.
Otherwise, no headaches or changes to her vision. No dysphagia.
No CP, SOB, or cough. She has occasional weekly headaches. No
N/V. Last BM was on ___, and she is a bit constipated. No new
leg pain or swelling. She is taking her Coumadin as prescribed. 

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGY HISTORY
In brief, Prior Treatment: 
- Carboplatin/Etoposide ___ -> complete resolution
- ___ -> local recurrence
- Topotecan ___, 4 cycles
- PET/CT ___ with new liver mets and presacral soft tissue 
mass
- CAV for 2 cycles (___)

Per ___ Century Oncology in ___ records, Ms.
___ she was know in ___ began having pain
and bleeding in ___. Colonoscopy performed by Dr. 
___ at the ___ of the  ___ in ___ on ___ showed a 5-cm anterior anal
canal mass (also decribed as anorectal), with biopsy showing a
high-grade neuroendocrine carcinoma.  CT reportedly showed
numerous small liver lesions consistent with metastases.  She 
was
treated with cisplatin-etoposide by Dr. ___ with
initial response but then developed pain which led her to be
referred again to the radiation ocologist, Dr. ___, on
___.  He described that CT at ___'s ___
in ___ showed thickening of the rectum and adenopathy 
to
the left of the rectum.  She started topotecan after the CT with
dramatic reduction in her pain.  She received radiation therapy
to the rectum and anal-rectal mass from ___ to
___ (50.4 Gy in 28 fractions over 38 elapsed days
using IMRT with ___ MV photons).  The field sizes and treatment
borders were not reported in the summary. She appeared to have
good pain relief, though she still was using oxycodone when Dr.
___ saw her on ___.

Ms. ___ moved to ___ (where her brother and daughter
live) at some time this year.  She developed subacute left 
pelvic
and hip pain which radiated down the left leg.  She did not seek
medical care for this.  On ___ she developed acute 
chest
pain and shortness of breath and presented to the ___ ED in ___.  CXR there on the same day was
unremarkable, but chest CT-A revealed a pulmonary embolus in a
medial branch of the left lower lobe and a hepatic hypodensity. 
Lower extremity ultrasound on ___ was negative for DVT. She
was started on warfarin with a lovenox bridge.  CT of the 
abdomen
and pelvis on ___ reportedly showed numerous hypoattenuating
liver lesions, the largest 5 cm in the left hepatic lobe;
circumferential rectal thickening extending into presacral 
space;
prominent gonadal veins; and a fibroid uterus.  These images are
not available for our review at present.  On  ___,
CT-guided core biopsy of the left hepatic mass was performed,
which per the hospital discharge summary revealed high-grade
neuroendocrine tumor.  (She reports that she was told the biopsy
showed "small cell cancer.")  Transvaginal ultrasound on ___ revealed a fibroid uterus.  She was discharged on ___ on warfarin, oxycontin 10 mg bid, and dilaudid 2mg q4h,
apparently with plans for outpatient follow-up.  

Ms. ___  pelvic pain worsened and began to radiate down
the left leg after discharge.   She went to a local urgent care. 

No records are available from this visit, but she was apparently
prescribed toradol 10 mg q6h x 5 days; she took it for one day
with no relief. 

Ms. ___ went to the ___ ED on ___.
Examination there found ___ flexion/extension at the left ankle,
___ ___, and that she could "raise leg with difficulty".  Lumbar
___ radiographs were normal,   Lumbar ___ MRI  reportedly
showed a heterogenous enhancing soft tissue mass in the left
presacral region anterior to S2/S3 with direct bony invasion of
S2, encasing the left S1 and likely S2 nerve roots, with 
adjacent
5.1 x 3.4 x 3.5-cm and 1.6 x 1.3 x 1-cm masses just to the right
of this midline at S1. This imaging is not currently available
for review.  Ms. ___ was then transferred to ___ (her
first visit here) for further evaluation and management on ___. 

PAST MEDICAL HISTORY: 
- Rectal cancer, as above
- PE, on Coumadin
- GERD
 
Social History:
___
Family History:
FAMILY HISTORY:
No known family history of cancer. Mother still alive, 5 
siblings. Father died in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 98.2 HR 72 BP 106/73 RR 16 SAT  100% O2 on RA
GENERAL: Pleasant, sitting up in bed comfortably in NAD
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or 
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to 
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft, TTP 
in LLQ to deep palpation. No rebound or guarding; no 
hepatomegaly, no splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower 
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, strength ___ in LLE 
hip flexion and knee extension, although seems primarily limited 
by
pain. Full strength throughout otherwise. FTN intact. 
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular 
lymphadenopathy. No significant ecchymoses

DISCHARGE EXAM:
VS:  98.2  ___
GEN: Well-appearing woman in NAD.
HEENT: Sclera anicteric, MMM, oropharynx clear 
Cards: RRR, nl S1/S2, no MRG 
Pulm: CTAB, no wheezes/rales/rhonchi
Abd: Soft, non-tender, non-distended. Normoactive bowel sounds, 
no guarding,   
Back: No TTP over left buttock or left leg 
Neuro: AAOx3, CN II-XII grossly intact
 
Pertinent Results:
ADMISSION LABS
=====================
___ 02:44PM BLOOD WBC-2.9* RBC-3.24* Hgb-10.3* Hct-32.4* 
MCV-100* MCH-31.8 MCHC-31.8* RDW-17.1* RDWSD-63.1* Plt ___
___ 02:44PM BLOOD Neuts-56.3 ___ Monos-16.2* 
Eos-4.1 Baso-0.7 Im ___ AbsNeut-1.63 AbsLymp-0.65* 
AbsMono-0.47 AbsEos-0.12 AbsBaso-0.02
___ 04:59PM BLOOD ___ PTT-61.1* ___
___ 02:44PM BLOOD Glucose-72 UreaN-15 Creat-1.0 Na-139 
K-3.9 Cl-104 HCO3-21* AnGap-18
___ 02:44PM BLOOD ALT-61* AST-60* AlkPhos-101 TotBili-0.2
___ 02:44PM BLOOD cTropnT-<0.01
___ 02:44PM BLOOD Albumin-3.9
___ 05:05AM BLOOD Calcium-9.9 Phos-4.6* Mg-2.0
___ 09:26PM BLOOD Lactate-1.8

RELEVANT LABS: 
=====================
___ 06:48AM BLOOD HBcAb-NEG HAV Ab-POS*
___ 05:05AM BLOOD HBsAg-POS* HBsAb-NEG HBcAb-NEG
___ 04:59AM BLOOD HIV Ab-POSITIVE* HIV1-POSITIVE* 
HIV2-NEGATIVE
___ 05:05AM BLOOD HCV Ab-NEG
___ 04:59AM BLOOD HBV VL-2.9*
___ 04:30PM BLOOD HBV VL-2.9*
___ 08:33AM BLOOD  WBC-2.2* Lymph-27 Abs ___ CD3%-67 
Abs CD3-398* CD4%-20 Abs CD4-119* CD8%-47 Abs CD8-277 
CD4/CD8-0.43*

DISCHARGE LABS
=====================
___ 05:08AM BLOOD WBC-10.2*# RBC-3.21* Hgb-10.1* Hct-30.8* 
MCV-96 MCH-31.5 MCHC-32.8 RDW-15.5 RDWSD-54.8* Plt ___
___ 05:08AM BLOOD Neuts-86* Bands-5 Lymphs-5* Monos-2* 
Eos-2 Baso-0 ___ Myelos-0 AbsNeut-9.28* 
AbsLymp-0.51* AbsMono-0.20 AbsEos-0.20 AbsBaso-0.00*
___ 05:08AM BLOOD ___ PTT-34.8 ___
___ 05:08AM BLOOD Glucose-143* UreaN-11 Creat-0.9 Na-140 
K-4.0 Cl-104 HCO3-30 AnGap-6*
___ 05:08AM BLOOD ALT-96* AST-93* LD(LDH)-341* AlkPhos-143* 
TotBili-0.6
___ 05:08AM BLOOD Albumin-4.1 Calcium-10.6* Phos-3.3 Mg-2.0

IMAGING: 
======================
MR ___ - ___ - ___ - Loaded into life image
1) 5.1 x 3.4 x 3.4 cm left presacral mass at S1 and S2 with
contiguous bony involvement in the S1 vertebral body. The mass
encases the left S1 nerve root and likely the S2 nerve root as
well. Additional small presacral mass just to the right of the
midline at the S1 level measuring 1.6 cm. Finding likely reflect
metastatic disease in this patient with known history of cancer.
Primary sacral tumor such chordona of chonrosarcome could have
similar appearance. 
2) No significant abnormalities in the lumbar ___. No
degenerative disc disease or disc herniation. No spinal stenosis
or lumbar nerve root neural impingement. No0 epidural fluid
collections. 
3) multiple dominant liver masses, not completely evaluated by
this study consistent with provided history of metastatic 
cancer.

CHEST (PA & LAT) ___ 
No acute intrathoracic process.

CT ABDOMEN/PELVIS  ___ 
Numerous hepatic metastases, presacral mass and periportal 
adenopathy with
resulting mild common bile duct dilatation, likely reflecting 
metastatic
disease from rectal cancer.
 
CT CHEST ___. No evidence of intrathoracic metastasis.
2. Hepatic and perihepatic metastases which will be further 
detailed in the
dedicated abdomen/pelvis CT.

MRI ___ ___. No evidence of enhancing mass or abnormal enhancement to 
suggest metastatic
disease.
2. No evidence of acute infarction or intracranial hemorrhage.
 
MRI ___ ___. No evidence of osseous metastasis or enhancing soft tissue 
component.  No
evidence of cord compression.
2. Questionable non-enhancing short-segment focal spinal cord 
signal
abnormality at T9-T10 level.  This is unlikely to represent 
metastatic
disease.  Finding is nonspecific, and may represent infectious 
or inflammatory
process, or artifactual.  Attention on short-term follow-up 
examination is
recommended.
3. Re-demonstration of hepatic metastasis and periportal 
lymphadenopathy,
better assessed on recent CT abdomen and pelvis ___.
 
PATHOLOGY 
===================
Liver, needle core biopsy: ___
Metastatic high grade neuroendocrine carcinoma, small cell 
carcinoma type. See note.
Note: The tumor cells are immunoreactive for keratin, AE1/AE3, 
CAM5.2, TTF-1, and
synaptophysin. ___ proliferative index is almost 100%. The 
tumor cells are negative for
chromogranin and CDX2. PAX-8 is focally weakly positive. The 
findings are consistent with metastasis from the patient's known 
rectal neuroendocrine carcinoma. Prior pathology is not 
available for review. 

MICROBIOLOGY
=====================
___ 6:48 am Blood (Toxo)      Source: Line-port. 

                            **FINAL REPORT ___

   TOXOPLASMA IgG ANTIBODY (Final ___: 
      EQUIVOCAL FOR TOXOPLASMA IgG ANTIBODY BY EIA. 
      5.0 IU/ML. 
      Reference Range:  Negative < 4 IU/ml, Positive >= 8 IU/ml. 


   TOXOPLASMA IgM ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      The FDA is advising that the result from any one 
toxoplasma IgM
      commercial test kit should not be used as the sole 
determinant of
      recent toxoplasma infection when screening a pregnant 
patient. 
__________________________________________________________
___ 6:48 am Blood (CMV AB)      Source: Line-port. 

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      POSITIVE FOR CMV IgG ANTIBODY BY EIA. 
      88 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  INFECTION AT UNDETERMINED TIME. 
      A positive IgG result generally indicates past exposure. 
      Infection with CMV once contracted remains latent and may 
reactivate
      when immunity is compromised. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 
      If current infection is suspected, submit follow-up serum 
in ___
      weeks. 

 
Brief Hospital Course:
___ with previously treated metastatic high grade neuroendocrine 
tumor, diagnosed in ___ due to rectal bleeding with subsequent 
C scope and CT and treated in ___ in ___ with 
cisplatin/etoposide, topotecan, XRT to rectum, recent acute PE 
and new liver metastasis diagnosed 3 weeks ago at ___ 
___ with liver bx ___, on Coumadin since, who presented 
as transfer from ___ for 
worsening L low back pain and new presacral mass seen on MRI 
with liver metastasis consistent with ongoing progressive 
metastatic NET. She initiated treatment with 
carboplatin/etoposide ___ and neupogen on ___ with 
resolution of neutropenia on ___. She also has chronic HIV/HBV 
and was started on Dolutegravir + Truvada and entecavir per the 
ID team.

ACUTE/ACTIVE PROBLEMS:
# High grade Neuroendocrine carcinoma, mets to bone and liver:
History obtained from ___ where she had her prior cancer care. 
Cancer high grade NET in anterior anorectal region s/p several 
rounds of chemo and XRT with known liver mets at that time. OSH 
records reviewed per Rad Onc note ___. In brief:
Prior Treatment: 
- Carboplatin/Etoposide ___ -> complete resolution
- ___ -> local recurrence
- Topotecan ___, 4 cycles
- PET/CT ___ with new liver mets and presacral soft tissue
mass
- CAV for 2 cycles (___)
She presented with ongoing back pain and radicular pain with 
presacral mass with invasion of bone and liver metastases. 
Status post biopsy of liver met with results showing metastatic 
high grade neuroendocrine carcinoma, small cell carcinoma type, 
Ki-67 proliferative index is almost 100%. MRI head negative for 
metastasis. She was previously irradiated, and per radiation 
oncology, given the specifics of patient's prior radiation 
treatment and the location of her sacral lesion, she cannot 
safely receive additional radiation. 
During admission, she was re-initiated on chemotherapy as below: 

- carboplatin 4 AUC D1 [___]
- Etoposide 80mg/m2 D1,2,3 ___ - ___ 
- Neupogen D4 [___] - her ANC was 9.3 at discharge

# Subacute PE:
She had no dyspnea during admission. Patient was previously 
managed on warfarin. She was resumed on lovenox given 
malignancy. 

# Cancer related pain: Patient had low back pain and pelvic Pain 
from pre-sacral/vertebral metastasis S2-3. She was maintained on 
oxycontin in house, but her insurance did not cover it. 
Consequently, she was discharged on MS contin, with a bowel 
regimen. Interventional radiology will follow up with her to 
consider ablation of her presacral mass.

# HIV:
HIV1 positive, which is chronic for her since at least ___. 
Unable to perform genotyping as patient had negative viral load. 
She has been followed by Dr. ___ (___) since 
___. Her initial CD4 was 62. She has been treated with 
Truvada ___, and subsequently transitioned to 
Genvoya/Baraclude since ___ for treatment of her HIV and HBV. 
She has been generally adherent to this regimen and has not had 
h/o opportunitist infections. Dr. ___ records which were 
reviewed. On admission, Her CD4 was 114. Per ID, treatment was 
initiated with Dolutegravir + Truvada prior to starting 
chemotherapy. She was also started on bactrim single strength 
prior to the start of her cancer treatment. Toxo IgG positive 
and CMV IgG Positive, but did not require treatment per ID. 

#Chronic HBV: Patient with history of chronic HBV with positive 
core antibody. HBC viral load 2.9. The day after chemotherapy 
initiation, she developed worsening transaminitis, likely 
secondary to parenchymal disease v. chemo. Unlikely related to 
HBV in the setting of receiving chemo given HBV viral was stable 
at 2.9. Pt is on max therapy with Truvada and entacavir for HBV 
already per ID. HBe antigen positive indicating active hepatitis 
B infection, despite relatively low viral load. HBV genotyping 
is pending.

CHRONIC/STABLE PROBLEMS:
# GERD: Continued on omeprazole 20, Maalox prn

TRANSITIONAL ISSUES
===========================
[] Patient will follow up with Dr. ___ discharge on 
___ for further cycles of treatment. She was started on 
Carboplatin/Etoposide on ___ with cycles planned every 21 days.
[] Follow up labs at appointment on ___ including CBC, Chem10, 
LFTs, Coags
[] Scheduled for ID follow up on ___ for management of HIV and 
Hepatitis B. Patient discharged on dolutegravir and truvada for 
HIV and entacavir for HBV. Critically important that patient 
continues these medications as on chemotherapy and this was 
stressed to her. 
[] Follow up hepatitis B genotyping
[] CD4 Count 114. Patient was placed on Bactrim SS daily for PCP 
___. She did not meet criteria per ID for toxo or CMV ppx. 
[] Release of information sent to patient's oncologist in 
___ Cancer Specialists (P ___, F 
___. Stated that they would fax records to ___ and 
mail PET/CT images to radiology c/o Dr. ___. 
[] Patient discharged on MS ___ 15mg BID as prior auth for 
oxycontin 20mg BID was denied. Consider increasing at follow up 
appointment with Dr. ___ pain is inadequately controlled. 
She was also provided with a prescription for short acting 
oxycodone. 
[] Discharged on lovenox 70mg q12h to be continued indefinitely 
for treatment of PE. 
[] Consider palliative care consult going forward. 
[] Patient needs follow up with interventional radiology for 
consideration of ablation of sacral met. They should schedule 
this with her but please call to schedule an appointment if she 
does not hear from them - ___.
[] Patient will follow up with infectious disease as an 
outpatient for monitoring of HIV/HBV while on chemotherapy.
[] Code Status: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Warfarin 6 mg PO DAILY16 
4. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
5. ketorolac 10 mg oral Q6H:PRN 
6. Gabapentin 100 mg PO TID 

 
Discharge Medications:
1.  Dolutegravir 50 mg PO DAILY 
RX *dolutegravir [Tivicay] 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
RX *emtricitabine-tenofovir (TDF) [Truvada] 200 mg-300 mg 1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0 
3.  Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL ___very twelve (12) hours 
Disp #*60 Syringe Refills:*0 
4.  Entecavir Oral Solution 1 mg PO DAILY 
RX *entecavir 1 mg 1 mg by mouth once a day Disp #*30 Tablet 
Refills:*0 
5.  LORazepam 0.5 mg PO Q4H:PRN anxiety 
RX *lorazepam [Ativan] 0.5 mg 1 tab by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 
6.  Morphine SR (MS ___ 15 mg PO Q12H 
RX *morphine 15 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*30 Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 gram by mouth once 
a day Refills:*0 
9.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tab by mouth 
twice a day Disp #*60 Tablet Refills:*0 
10.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0 
11.  Docusate Sodium 100 mg PO DAILY  
12.  Gabapentin 100 mg PO TID  
13.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Neuroendocrine tumor metastatic to liver, ___

Secondary:
Subacute PE
Chronic anemia
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were having 
worsening back pain. Unfortunately, we found that this was 
caused by your cancer spreading to your lower ___. The cancer 
has also spread to your liver. We did a biopsy of your liver 
which confirmed the diagnosis. We started your chemotherapy 
while you were in the hospital. You will continue these 
treatments as an outpatient. 

We set up an appointment with Dr. ___ will be your 
primary care doctor, ___ will be your oncologist, 
and with the infectious disease team. Please go to these 
appointments. 

We are also discharging you on new medications. Please take all 
of them as prescribed. We also asked the interventional 
radiology team to meet with you to see if you would benefit from 
a procedure (called an ablation) to reduce the pain from the 
cancer that spread to your bones (causing pain in your left 
buttock). They will call you to schedule an appointment. If you 
don't hear from them by the end of this week, please call them 
to make an appointment at ___. 

It was a privilege to participate in your care, and we wish you 
all the best. 

Sincerely,
Your ___ team
 
Followup Instructions:
___